US04868257
3,5-Dibromo-4-acetoxystyrene:
1-(3',5'-Dibromo-4'-acetoxyphenyl)ethanol (104.86 g, 0.296 mol) KHSO4 (1.0 g) and t-butyl catechol (3.34 g) are mixed in a flask. The flask is equipped with a fractional distillation apparatus and attached to a vacuumpump. Dehydration is conducted at 168°-187° C. under vacuum (0.05-0.10 mm Hg). The product is distilled at 116°-134° C. to yield an oily solid (61.82 g). Recrystallization from hexane gives white crystals, m.p. 76° C.

reactant | 1-(3',5'-Dibromo-4'-acetoxyphenyl)ethanol | 0.296 mol, 104.86 g | BrC=1C=C(C=C(C1OC(C)=O)Br)C(C)O | C10H10Br2O3
reactant | t-butyl catechol | 3.34 g | C(C)(C)(C)C1=C(C(O)=CC=C1)O | C10H14O2
product | 3,5-Dibromo-4-acetoxystyrene | 61.82 g | BrC=1C=C(C=C)C=C(C1OC(C)=O)Br | C10H8Br2O2
